US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone hydrochloride
Following general procedure F, (6-bromo-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone (45 mg, 0.097 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (40 mg, 0.15 mmol) to obtain the desired product which was dissolved in methanol and HCl (2 mL, 1.25 M in methanol). The mixture was concentrated to obtain the desired product (46 mg, 79% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.44 (s, 1H), 8.23 (dd, J=8.8, 1.9 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.92 (s, 1H), 7.65-7.57 (m, 1H), 7.56-7.47 (m, 2H), 7.41-7.35 (m, 1H), 7.16-7.10 (m, 1H), 6.97 (s, 1H), 3.71-3.65 (m, 2H), 3.46-3.39 (m, 2H), 3.19-3.06 (m, 4H), 2.91-2.87 (m, 1H), 2.19-2.09 (m, 2H), 2.06-2.00 (m, 2H), 1.26-1.15 (m, 4H); ESI MS m/z 530 [C31H29ClFN3O2+H]+; HPLC 98.4% (AUC), tR=10.81 min.

reactant | (6-bromo-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.097 mmol, 45 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C25H26BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 40 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone hydrochloride | Cl.ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | InChI=1S/C31H29ClFN3O2.ClH/c32-26-16-22(17-27(33)31(26)38)21-8-9-28-24(15-21)29(25(18-34-28)30(37)20-6-7-20)35-23-5-3-4-19(14-23)10-13-36-11-1-2-12-36;/h3-5,8-9,14-18,20,38H,1-2,6-7,10-13H2,(H,34,35);1H
